US09169187B2
To 4,4-dihydroxybenzophenone (196 mg, 915 μmol) were added DMF (20 ml), 1-(12-bromododecyloxy)docosane (1.1 g, 1.91 mmol) and potassium carbonate (379 mg, 2.74 mmol), and the mixture was stirred at 90° C. overnight. The reaction mixture was cooled to room temperature, and 0.5N hydrochloric acid (20 ml) and chloroform (20 ml) were added. After stirring for a while, the aqueous layer was removed, and the organic layer was washed with water (10 ml)×2. The organic layer was evaporated under reduced pressure, and the residue was washed with methanol. The precipitate was collected by filtration to give 4,4-di(12-docosoxydodecyloxy)benzophenone (1.04 g, 867 μmol, 95%).

reactant | 4,4-dihydroxybenzophenone | 915 μmol, 196 mg | OC1(CC=C(C(=O)C2=CC=CC=C2)C=C1)O | C13H12O3
reactant | 1-(12-bromododecyloxy)docosane | 1.91 mmol, 1.1 g | BrCCCCCCCCCCCCOCCCCCCCCCCCCCCCCCCCCCC | C34H69BrO
reactant | potassium carbonate | 2.74 mmol, 379 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.5N, 20 ml | Cl | ClH
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4,4-di(12-docosoxydodecyloxy)benzophenone | 867 μmol, 1.04 g, 95% | C(CCCCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCOC1(CC=C(C(=O)C2=CC=CC=C2)C=C1)OCCCCCCCCCCCCOCCCCCCCCCCCCCCCCCCCCCC | C81H148O5
